US08466181B2
4-{4-[5-(4-Fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-benzamide
To a solution of 4-{4-[5-(4-fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-benzoic acid (76 mg, 0.209 mmol) in DMF (2 mL) was added CDI (41 mg, 0.251 mmol) and the resulting mixture stirred at 60° C. for 1 h. After cooling to room temperature ammonium hydroxide (330 μL, 2.09 mmol) was added and reaction mixture was stirred for 1 h and then evaporated. Purification by crystallization afforded the title compound (64 mg, 84%) as a white solid. MS: m/e=363.2 [M+H]+.

reactant | 4-{4-[5-(4-fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-benzoic acid | 0.209 mmol, 76 mg | FC1=CC=C(C=C1)C1=C(N(N=N1)C)C=1N=CN(C1)C1=CC=C(C(=O)O)C=C1 | C19H14FN5O2
reactant | CDI | 0.251 mmol, 41 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ammonium hydroxide | 2.09 mmol, 330 μL | [OH-].[NH4+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-{4-[5-(4-Fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-benzamide | 64 mg, 84% | FC1=CC=C(C=C1)C1=C(N(N=N1)C)C=1N=CN(C1)C1=CC=C(C(=O)N)C=C1 | C19H15FN6O
